US05200110
Compound [H], 4-bromobenzoic acid is chlorinated with thionyl chloride to yield compound [I], 4-bromobenzoic acid chloride. Compound [I] is reacted with aqueous ammonia to yield compound [J] 4-bromobenzoic acid amide. Compound [J] is dehydrated with thionyl chloride to yield compound [K], a 4-bromobenzonitrile. Compound [K] is reacted with gaseous hydrogen chloride in anhydrous ethanol to yield compound [L], 4-bromobenzimidate hydrogen chloride. In ethanol, compound [L] is reacted with gaseous ammonia to yield compound [M], 4-bromobenzamidine hydrogen chloride.

reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 4-bromobenzonitrile | BrC1=CC=C(C#N)C=C1 | C7H4BrN
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 4-bromobenzimidate hydrogen chloride | Cl.BrC1=CC=C(C(O)=N)C=C1 | InChI=1S/C7H6BrNO.ClH/c8-6-3-1-5(2-4-6)7(9)10;/h1-4H,(H2,9,10);1H
